US09302991B2
<Step-4>:(R)-2-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)propane-2-sulfinamide (single diastereomer)
A mixture of 1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanone (4.51 g, 20.58 mmol, Step-3), (R)-2-methylpropane-2-sulfinamide (3.74 g, 30.9 mmol) and tetraethyl orthotitanate (6.47 mL, 30.9 mmol) in tetrahydrofuran (23 mL) is stirred at 70° C. for 17 hours. The reaction mixture is cooled to 0° C., sodium borohydride (2.72 g, 72.0 mmol) is added there, and the mixture is stirred at same temperature for 1 hour. Saturated aqueous sodium hydrogen carbonate (50 mL) is added to the reaction mixture, and the mixture is stirred for 10 minutes. After filtration through a pad of celite (registered trademark), the filtrate is extracted with ethyl acetate (300 mL). The organic layer is washed with water (100 mL×2) and dried over sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (4:1 to 1:1) to give 6.25 g (94% yield) of the title compound as colorless oil.

reactant | 1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanone | 20.58 mmol, 4.51 g | FC(COC1=CC=C(C=N1)C(C)=O)(F)F | C9H8F3NO2
reactant | (R)-2-methylpropane-2-sulfinamide | 30.9 mmol, 3.74 g | CC(C)(C)[S@@](=O)N | C4H11NOS
reactant | sodium borohydride | 72.0 mmol, 2.72 g | [BH4-].[Na+]
reactant | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 23 mL | O1CCCC1 | C4H8O
catalyst | tetraethyl orthotitanate | 30.9 mmol, 6.47 mL | CCO.CCO.CCO.CCO.[Ti]
product | (R)-2-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)propane-2-sulfinamide | 6.25 g, 94% yield | CC(C)(C)[S@@](=O)NC(C)C=1C=NC(=CC1)OCC(F)(F)F | C13H19F3N2O2S
